US08217064B2
To a stirred solution of ethyl 1-(4-amino-3-(2,2,2-trifluoroethoxy)phenyl)cyclopentanecarboxylate (1.2 g, 4.0 mmol) in dry CCl4 (60 mL), NBS (0.427 g, 3.2 mmol) was added at 0° C. The reaction mixture was allowed to stir for 3 h at room temperature. The reaction mixture was diluted with water, extracted with DCM (2×50 mL), the combined organic solvents was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude reaction mixture was purified by column chromatography to give ethyl 1-(4-amino-3-bromo-5-(2,2,2-trifluoroethoxy)phenyl)cyclopentanecarboxylate (920 mg) as a yellow solid.

reactant | ethyl 1-(4-amino-3-(2,2,2-trifluoroethoxy)phenyl)cyclopentanecarboxylate | 4.0 mmol, 1.2 g | NC1=C(C=C(C=C1)C1(CCCC1)C(=O)OCC)OCC(F)(F)F | C16H20F3NO3
reactant | NBS | 3.2 mmol, 0.427 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 60 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | O | H2O
product | ethyl 1-(4-amino-3-bromo-5-(2,2,2-trifluoroethoxy)phenyl)cyclopentanecarboxylate | 920 mg | NC1=C(C=C(C=C1OCC(F)(F)F)C1(CCCC1)C(=O)OCC)Br | C16H19BrF3NO3
